US08071581B2
Step 1: Preparation of (3-bromo-5,7-difluoro-quinolin-6-yl)-acetic acid methyl ester
To a mixture of (5,7-difluoro-quinolin-6-yl)-acetic acid methyl ester (35.3 g, 148.9 mmol) and pyridine (24 mL, 298 mmol) in 300 mL of carbon tetrachloride was added bromine (15.3 mL, 298 mmol) in a dropwise fashion. The mixture was heated to reflux for 2 hrs before being cooled to ambient temperature. The liquid in the flask was decanted and washed with NaHCO3 and water. The dark solid on the bottom of the flask was treated with NaHCO3 and dichloromethane. The combined organic layers were washed with water, dried (Na2SO4) and evaporated to dryness. The crude product was purified via flash column chromatography eluting with petroleum ether/ethyl acetate (40/1˜3/1) to return 31.5 g (67% yield) of the title compound as white crystalline solid. 1H NMR (DMSO-d6): δ 8.92 (d, 1H), 8.50 (d, 1H), 7.57˜7.61 (m, 1H), 3.91 (s, 2H), 3.75 (s, 3H).

reactant | (5,7-difluoro-quinolin-6-yl)-acetic acid methyl ester | 148.9 mmol, 35.3 g | COC(CC=1C(=C2C=CC=NC2=CC1F)F)=O | C12H9F2NO2
reactant | pyridine | 298 mmol, 24 mL | N1=CC=CC=C1 | C5H5N
reactant | bromine | 298 mmol, 15.3 mL | BrBr | Br2
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (3-bromo-5,7-difluoro-quinolin-6-yl)-acetic acid methyl ester | 31.5 g, 67% yield | COC(CC=1C(=C2C=C(C=NC2=CC1F)Br)F)=O | C12H8BrF2NO2
